US05519133
Preparation of 2-Bromo-5-hydroxybenzoic acid
A mixture of 2-bromo-5-methoxybenzoic acid (10 g, 0.043 mol) in methylene chloride is cooled to -60° C., treated with boron tribromide (3.59 g, 0.143 mol), stirred at -60° C. for 1 hour, stirred at room temperature for 1 hour, cooled to -70° C., treated with additional boron tribromide (3.59 g, 0.143 mol), stirred at -70° C. for 1 hour, stirred at room temperature for 1 hour and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a white solid which is identified by 1H and 13CNMR spectral analyses.

reactant | 2-bromo-5-methoxybenzoic acid | 0.043 mol, 10 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | boron tribromide | 0.143 mol, 3.59 g | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.143 mol, 3.59 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-hydroxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)O | C7H5BrO3
